US09353108B2
E) Ethyl 2-cyclopropyl-4′-fluoro-6-isopropoxybiphenyl-4-carboxylate
A mixture of ethyl 4′-fluoro-2-isopropoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate (1.67 g), cyclopropylboronic acid (0.955 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (228 mg), a 2 M aqueous sodium carbonate solution (5.56 mL), tris(dibenzylideneacetone)dipalladium(0) (238 mg), and toluene (15 mL) was stirred at 100° C. for 2 hours in an argon atmosphere. The reaction mixture was filtered, and then, the filtrate was poured to water, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.22 g).

reactant | ethyl 4′-fluoro-2-isopropoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate | 1.67 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC)OC(C)C | C19H18F4O6S
reactant | cyclopropylboronic acid | 0.955 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 228 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 5.56 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 238 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclopropyl-4′-fluoro-6-isopropoxybiphenyl-4-carboxylate | 1.22 g | C1(CC1)C1=C(C(=CC(=C1)C(=O)OCC)OC(C)C)C1=CC=C(C=C1)F | C21H23FO3
